### PR TITLE
feat: bv_decide short-circuit `a * x = b * x`

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This PR adds short-circuit support to bv_decide to accelerate multiplications with shared coefficients. In particular, `a * x = b * x` can be extended to `a = b v (a * x = b * x)`. The latter is faster if `a = b` is true, as `a = b` may be evaluated without considering the multiplication circuit. On the other hand, we require the multiplication circuit, as `a * x = b * x -> a = b` is not always true due to two's complement wrapping.

We support multiplications through acNF, which takes into account shared terms across equality canonicalizing `a * (b * c1) = a * (b * c2)` to `(a * b) * c1 = (a * b) * c2`. As a result, the non-shared terms are lifted to the top such that canonical rewrites for binary multiplication with shared terms on the left/right are sufficient.

We add an option `bv_decide +shortCircuit` which controls this feature (currently disabled by default).

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
changelog-library

File: tests/lean/run/bv_arith.lean [hunk 1]
```diff
@@ -70,3 +70,19 @@ theorem arith_unit_18 (x y : BitVec 8)  (hx : x.msb = true) (h : y.msb = true) :
 
 theorem arith_unit_19 (x y : BitVec 8)  (hx : x.msb = true) (h : y.msb = true) : x.srem y = -((-x) % (-y)) := by
   bv_decide
+
+-- This theorem cannot be short-circuited to eliminate all multipilications,
+-- so it is only fast for small bitwidths.
```
Comment (tobiasgrosser) [inline tests/lean/run/bv_arith.lean:75]:
```suggestion
-- This theorem cannot be short-circuited to eliminate all multiplications,
-- so it is only fast for small bitwidths.
```

**Comment by tobiasgrosser** [comment]
Based on feedback from @hargoniX, the ternary form is not desirable. We are currently working on generalizing ac_nf to be able to reach a canonical form that allows to not require a ternary form.

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean [hunk 2]
```diff
@@ -476,6 +476,17 @@ theorem BitVec.norm_bv_add_mul {x y : BitVec w} : ~~~(x * ~~~y) + 1#w = x + (x *
 @[bv_normalize]
 theorem BitVec.norm_bv_add_mul' {x y : BitVec w} : ~~~(~~~y * x) + 1#w = x + (y * x) := by
   rw [BitVec.mul_comm (~~~y) x, BitVec.mul_comm y x, BitVec.norm_bv_add_mul]
+theorem BitVec.mul_beq_mul_short_circuit_left {x₁ x₂ y : BitVec w} :
+    (x₁ * y == x₂ * y) = !(!x₁ == x₂ && !x₁ * y == x₂ * y) := by
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Normalize/BitVec.lean:480]:
```suggestion

theorem BitVec.mul_beq_mul_short_circuit_left {x₁ x₂ y : BitVec w} :
    (x₁ * y == x₂ * y) = !(!x₁ == x₂ && !x₁ * y == x₂ * y) := by
```

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize.lean [hunk 3]
```diff
@@ -87,7 +88,11 @@ where
 
     trace[Meta.Tactic.bv] m!"Running fixpoint pipeline on:\n{g}"
     let pipeline ← passPipeline
-    Pass.fixpointPipeline pipeline g
+    let some g' ← Pass.fixpointPipeline pipeline g | return none
+    /-
+    Run short circuiting once post fixpoint, as it potentially increases size of terms.
+    -/
```
Comment (tobiasgrosser) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize.lean:94]:
```suggestion
    Run short circuiting once post fixpoint, as it increases the size of terms with
    the aim of exposing potential short-circuit reasoning to the solver.
    -/
```

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize.lean [hunk 4]
```diff
@@ -87,7 +88,15 @@ where
...
-    Pass.fixpointPipeline pipeline g
+    let some g' ← Pass.fixpointPipeline pipeline g | return none
+    /-
+    Run short circuiting once post fixpoint, as it increases the size of terms with
+    the aim of exposing potential short-circuit reasoning to the solver.
+    -/
+    if cfg.shortCircuit then
+      shortCircuitPass |>.run g'
+    else
+      pure g'
```
Comment (hargoniX) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize.lean:99]:
```suggestion
      return g'
```

File: tests/lean/run/bv_decide_rewriter_ac_nf.lean [hunk 5]
```diff
@@ -113,7 +113,7 @@ theorem mul_mul_eq_mul_mul (x₁ x₂ y₁ y₂ z : BitVec 4) (h₁ : x₁ = x
     x₁ * (y₁ * z) = x₂ * (y₂ * z) := by
   bv_normalize
   rename_i tgt
-  guard_hyp tgt :ₛ (!z * (x₁ * y₁) == z * (x₂ * y₂)) = true
```
Comment (hargoniX) [inline tests/lean/run/bv_decide_rewriter_ac_nf.lean:116]: These tests can't pass if we are default off right?

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/ShortCircuit.lean [hunk 6]
```diff
@@ -0,0 +1,58 @@
...
+      (config := {
+        failIfUnchanged := false,
+        zetaDelta := true,
+        singlePass := true,
+        maxSteps := (← PreProcessM.getConfig).maxSteps
+      })
+      (simpTheorems := theorems)
+      (congrTheorems := (← getSimpCongrTheorems))
+
+    let hyps ← goal.getNondepPropHyps
```
Comment (hargoniX) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/ShortCircuit.lean:49]:
```suggestion
    let hyps ← getPropHyps
```
I've learned by now that nondep prop hyps can be too restrictive in some real world contexts.

**Review by hargoniX — CHANGES_REQUESTED** [review]
